US09278983B2
A mixture of N-(2-amino-5-trifluoromethylpyridine-3-yl)-2-ethylsulfanyl-benzamide (200 mg), tert-butylalcohol (1 ml), and THF (9 ml) was stirred with heating at 80° C., then 60% of sodium hydride (in oil, 56 mg) was added thereto. The mixture was stirred with heating at 80° C. for 2 hours, and then 60% of sodium hydride (in oil, 56 mg) was added. The mixture was further stirred with heating at the same temperature for 2 hours, and then to the mixture, 60% of sodium hydride (in oil, 56 mg) was added, and stirred with heating at the same temperature for 2 hours. The reaction mixture was cooled to room temperature, and evaporated to remove the solvent, and then to the mixture, saturated ammonium chloride solution was added, and extracted with ethyl acetate. The organic layer was dried over sodium sulfate, and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography to give 132 mg of 2-(2-ethylsulfanylphenyl)-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine (hereinafter, Present Compound 351).

reactant | N-(2-amino-5-trifluoromethylpyridine-3-yl)-2-ethylsulfanyl-benzamide | 200 mg | NC1=NC=C(C=C1NC(C1=C(C=CC=C1)SCC)=O)C(F)(F)F | C15H14F3N3OS
reactant | tert-butylalcohol | 1 ml | C(C)(C)(C)O | C4H10O
reactant | sodium hydride | 56 mg | [H-].[Na+]
reactant | sodium hydride | 56 mg | [H-].[Na+]
reactant | sodium hydride | 56 mg | [H-].[Na+]
solvent | THF | 9 ml | C1CCOC1 | C4H8O
product | 2-(2-ethylsulfanylphenyl)-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine | 132 mg | C(C)SC1=C(C=CC=C1)C1=NC=2C(=NC=C(C2)C(F)(F)F)N1 | C15H12F3N3S
